US06872718B1
N-Methyl-N-[1-[(3,5,6,7-tetrahydro-2,4,6,6,8-pentamethyl-2H-furo[2,3-f]indol-2-yl)methyl]-4-piperidinyl]-1,3-benzothiazole-2-amine
A suspension of 3,5,6,7-tetrahydro-2-(iodomethyl)-2,4,6,6,8-pentamethyl-2H-furo[2,3-f]indole (372 mg, 1.00 mmol), N-methyl-N-(4-piperidinyl)-1,3-benzothiazole-2-amine hydrochloride (427 mg, 1.50 mmol) and potassium carbonate (485 mg, 3.51 mmol) in N,N-dimethylacetamide (2 ml) was stirred for 4.5 hours at 180° C. under nitrogen atmosphere. Water was added to the reaction mixture and the mixture was extracted twice with ethyl acetate. The organic layers were combined, washed with water and saturated brine, dried over magnesium sulfate, filtered and concentrated under reduced pressure. The residue was subjected to basic silica gel column chromatography (hexane:ethyl acetate=5:1) and crystallized from ethyl acetate-hexane to obtain 231 mg of the title compound.

reactant | 3,5,6,7-tetrahydro-2-(iodomethyl)-2,4,6,6,8-pentamethyl-2H-furo[2,3-f]indole | 1.00 mmol, 372 mg | ICC1(CC=2C(=C(C=3CC(NC3C2C)(C)C)C)O1)C | C16H22INO
reactant | N-methyl-N-(4-piperidinyl)-1,3-benzothiazole-2-amine hydrochloride | 1.50 mmol, 427 mg | Cl.CN(C=1SC2=C(N1)C=CC=C2)C2CCNCC2
reactant | potassium carbonate | 3.51 mmol, 485 mg | C([O-])([O-])=O.[K+].[K+]
reactant | Water | O | H2O
solvent | N,N-dimethylacetamide | 2 ml | CN(C(C)=O)C | C4H9NO
product | N-Methyl-N-[1-[(3,5,6,7-tetrahydro-2,4,6,6,8-pentamethyl-2H-furo[2,3-f]indol-2-yl)methyl]-4-piperidinyl]-1,3-benzothiazole-2-amine | 231 mg, Yield: 47% | CN(C=1SC2=C(N1)C=CC=C2)C2CCN(CC2)CC2(CC=1C(=C(C=3CC(NC3C1C)(C)C)C)O2)C | C29H38N4OS
